US08067362B2
Step 3: Synthesis of 4-{[(2-tert-Butoxycarbonylethyl)-(15-tert-butoxycarbonyl-pentadecanoyl)amino]methyl}benzoic acid 2,5-dioxopyrrolidin-1-yl ester
4-{[(2-tert-Butoxycarbonylethyl)-(15-tert-butoxycarbonyl-pentadecanoyl)amino]methyl}benzoic acid (70 mg, 0.12 mmol) was dissolved in THF (5 mL). The mixture was cooled with an ice bath. Diisopropylethylamin (0.024 mL, 0.14 mmol) and O—(N-succinimidyl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (42 mg, 0.14 mmol) was added. The mixture was stirred under nitrogen at 0° C. After 30 minutes the ice cooling was removed and the mixture was stirred for an additional 3 hours. Solvent removed in vacuo flowed by reevaporation from toluene. The crude product was dissolved in ethyl acetate (25 mL), washed with water (10 mL). The organic phase dried (Na2SO4), solvent removed in vacuo to yield the title compound (73 mg, 87%) which was used in subsequent step.

reactant | 4-{[(2-tert-Butoxycarbonylethyl)-(15-tert-butoxycarbonyl-pentadecanoyl)amino]methyl}benzoic acid | 0.12 mmol, 70 mg | C(C)(C)(C)OC(=O)CCN(C(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)CC1=CC=C(C(=O)O)C=C1 | C35H57NO7
reactant | Diisopropylethylamin | 0.14 mmol, 0.024 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O—(N-succinimidyl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.14 mmol, 42 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-{[(2-tert-Butoxycarbonylethyl)-(15-tert-butoxycarbonyl-pentadecanoyl)amino]methyl}benzoic acid 2,5-dioxopyrrolidin-1-yl ester | 73 mg, 87% | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)CN(C(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)CCC(=O)OC(C)(C)C)=O | C39H60N2O9
